US06359138B1
(S)-Toluenesulfonic acid 5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester (2.30g, 6.88 mmol) and 4-(4-methyl-benzyl)-piperidin-4-ol (1.62 g, 7.9 mmol) and Na2CO3 (1.10 g, 10.3 mmol) were suspended in DMF and heated at 110° C. for 1 hr. After cooling to ambient temperature distilled H2O and EtOAc were added (100 ml) and the mixture shaken, the organic phase was then separated and the aqueous phase extracted with EtOAc (10 ml). The combined organic extracts were then washed with satd. NaCl solution (100 ml) and the organic phase dried with Na2SO4, filtered and evaporated to afford a yellow oil. This foam was chromatographed over SiO2 (Merck 230-400 mesh) with CH2Cl2, and then with CH2Cl2—MeOH (97:3) to afford (S)-1-(5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol (2.20 g, 6.0 mmol, 87% yield) as a yellow oil MS: m/e=368.2 (M+H+) [α]=+45.8° (c=1.0, CHCl3).

reactant | (S)-Toluenesulfonic acid 5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester | 6.88 mmol, 2.30g | COC=1C=CC2=C(C[C@H](O2)COS(=O)(=O)C=2C(=CC=CC2)C)C1 | C17H18O5S
reactant | 4-(4-methyl-benzyl)-piperidin-4-ol | 7.9 mmol, 1.62 g | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
reactant | Na2CO3 | 10.3 mmol, 1.10 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-(5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 6.0 mmol, 2.20 g, 87% yield | COC=1C=CC2=C(C[C@H](O2)CN2CCC(CC2)(O)CC2=CC=C(C=C2)C)C1 | C23H29NO3
